US07550478B2
7-(2-hydroxyethyl)-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (Compound 336)
7-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (5 mg, 0.011 mmol) was dissolved in 0.5 mL of tetrahydrofuran. Tetrabutylammonium fluoride (0.013 mL of 1.0M in THF, 0.013 mmol) was added and the mixture was stirred at room temperature for 1 hour. The reaction was diluted with ethyl acetate and brine and washed with brine twice. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. Purification via reverse phase HPLC (10-70% acetonitrile/water gradient, 0.05% trifluoroacetic acid modifier) afforded the title compound. 1H NMR (600 MHz, CDCl3) δ 9.01 (d, 1H); 8.58 (s, 1H); 8.16 (d, 1H); 7.92 (s, 1H); 7.81 (s, 1H); 7.59 (dd, 1H); 7.56 (d, 1H); 7.35 (d, 1H); 7.24 (d, 1H); 3.99 (s, 3H); 3.96 (t, 2H); 3.03 (t, 2H). Hydroxyl proton was not observed. LRMS (APCI) calc'd for (C20H18N3O2) [M+H]+, 332.1; found 332.1.

reactant | 7-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.011 mmol, 5 mg | [Si](C)(C)(C(C)(C)C)OCCC=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1 | C26H31N3O2Si
reactant | Tetrabutylammonium fluoride | 0.013 mmol, 1.0M, 0.013 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 7-(2-hydroxyethyl)-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | OCCC=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1 | C20H17N3O2
